US06340759B1
(1-1) 2-[2-(4-Benzyloxybutyl)ethynyl]-5-methoxybenzaldehyde
6-Benzyloxy-1-hexyne (5.60 g) and 2-bromo-benzaldehyde (2.90 g) were reacted in dimethylformamide (30 ml), in the presence of dichloro-bis-triphenylphosphinepalladium (0.40 g), cuprous iodide (0.20 g) and triethylamine (2.5 ml) in nitrogen atmosphere at 50° C. for 6 hr. The resulting reaction solution was evaporated, and ethyl acetate and water were added to the resulting residue. The resulting organic layer was washed with water and brine, and dried over magnesium sulfate. The solvent was evaporated, and the resulting residue was purified by silica gel column chromatography (ethyl acetate/hexane system), to give 2.60 g of the title compound as a pale yellow oil.

reactant | 6-Benzyloxy-1-hexyne | 5.60 g | C(C1=CC=CC=C1)OCCCCC#C | C13H16O
reactant | 2-bromo-benzaldehyde | 2.90 g | BrC1=C(C=O)C=CC=C1 | C7H5BrO
reactant | triethylamine | 2.5 ml | C(C)N(CC)CC | C6H15N
reactant | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 2-[2-(4-Benzyloxybutyl)ethynyl]-5-methoxybenzaldehyde | 2.60 g | C(C1=CC=CC=C1)OCCCCC#CC1=C(C=O)C=C(C=C1)OC | C21H22O3
